US04558134
In a reaction flask were placed 110 ml of THF, 10 ml of DMSO and 5.6 g of t-BuOK. 3,4-Dichlorophenol (8.2 g) was added and the mixture was stirred until solution was achieved. To this was added 9.9 g of 6-chloro-3-ethylthio-2-pyridinecarbonitrile and the reaction mixture was heated at reflux temperature for about 5 hours. After cooling, the contents of the flask were poured onto 500 g of ice, stirred until the ice had melted and then filtered. The solid obtained by filtration was dissolved in CH2Cl2, treated with charcoal, dried and was concentrated. Upon dilution with hexane, 12.6 g (77.5%) of 6-(3,4-dichlorophenoxy)-3-ethylthio-2-pyridinecarbonitrile was obtained as a tan crystalline material, m.p. 64°-66° C. Subsequent analysis by differential scanning calorimetry indicated that the compound obtained was polymorphic and existed in two crystalline forms: one melting at 66°-69° C., and the other at 81°-87° C.

reactant | t-BuOK | 5.6 g | CC(C)(C)[O-].[K+]
reactant | 3,4-Dichlorophenol | 8.2 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | 6-chloro-3-ethylthio-2-pyridinecarbonitrile | 9.9 g | ClC1=CC=C(C(=N1)C#N)SCC | C8H7ClN2S
reactant | charcoal | C | CH4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | THF | 110 ml | C1CCOC1 | C4H8O
product | 6-(3,4-dichlorophenoxy)-3-ethylthio-2-pyridinecarbonitrile | 12.6 g, 77.5% | ClC=1C=C(OC2=CC=C(C(=N2)C#N)SCC)C=CC1Cl | C14H10Cl2N2OS
